US05008454
Synthesis of 1-bromo-5-[3-(octadecyloxy)propoxy]pentane:
Employing 3-(octadecyloxy)propanol (5 g), 1,5-dibromopentane (10.8 g), cetyltrimethylammonium chloride (0.96 g) and a 50% aqueous solution of sodium hydroxide (12 g), a reaction and aftertreatment are conducted in the same manner as those in Reference Example 4 to obtain the above-titled compound as colorless wax (3.75 g).

reactant | 3-(octadecyloxy)propanol | 5 g | C(CCCCCCCCCCCCCCCCC)OCCCO | C21H44O2
reactant | 1,5-dibromopentane | 10.8 g | BrCCCCCBr | C5H10Br2
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 0.96 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 1-bromo-5-[3-(octadecyloxy)propoxy]pentane | BrCCCCCOCCCOCCCCCCCCCCCCCCCCCC | C26H53BrO2
